US04937388
To a suspension of sodium hydride (0.1 g) in N,N-dimethylformamide (10 cm3) at 0° C. was added 3-phenoxybenzyl thiol (0.28 g). After stirring for 30 minutes, 1,1,1-trifluoro-2-(4-ethoxyphenyl)-prop-2-ene oxide (0.3 g) was added. The reaction mixture was stirred for ten minutes before being added to water (25 cm3) and neutralised with acetic acid. The product was extracted into diethyl ether (200 cm3). The organic layer was dried over anhydrous sodium sulphate and the solvent removed by evaporation under reduced pressure. The resulting oil was purified by chromatography to give 1,1,1-trifluoro-2-(4-ethoxyphenyl)-2-hydroxyprop-3-yl 3-phenoxybenzyl sulphide as a colourless oil (0.4 g).

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | 3-phenoxybenzyl thiol | 0.28 g | O(C1=CC=CC=C1)C=1C=C(CS)C=CC1 | C13H12OS
reactant | 1,1,1-trifluoro-2-(4-ethoxyphenyl)-prop-2-ene oxide | 0.3 g | FC(C1(CO1)C1=CC=C(C=C1)OCC)(F)F | C11H11F3O2
reactant | water | 25 cm3 | O | H2O
solvent | N,N-dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1,1-trifluoro-2-(4-ethoxyphenyl)-2-hydroxyprop-3-yl 3-phenoxybenzyl sulphide | 0.4 g | O(C1=CC=CC=C1)C=1C=C(CSCC(C(F)(F)F)(O)C2=CC=C(C=C2)OCC)C=CC1 | C24H23F3O3S
